US07939666B2
Step 5: (S)-2-(4-Aminomethyl-benzylamino)-3-phenyl-propionic acid cyclopentyl ester
(S)-2-[4-(tert-Butoxycarbonylamino-methyl)-benzylamino]-3-phenyl-propionic acid cyclopentyl ester was treated with 4M HCl in dioxane (1 mL, 0.25 mmol) and stirred at r.t. for 1 h. The mixture was evaporated to dryness and partitioned between EtOAc (20 mL) and water (20 mL). Saturated sodium bicarbonate (20 mL) was added to the aqueous layer which was then extracted with EtOAc (3×20 mL). The organic layers were combined, dried (Na2SO4) and evaporated to dryness to give the desired product (263 mg, 79% over 2 steps). m/z 353 [M++H]+

reactant | (S)-2-[4-(tert-Butoxycarbonylamino-methyl)-benzylamino]-3-phenyl-propionic acid cyclopentyl ester | C1(CCCC1)OC([C@H](CC1=CC=CC=C1)NCC1=CC=C(C=C1)CNC(=O)OC(C)(C)C)=O | C27H36N2O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 0.25 mmol, 1 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(4-Aminomethyl-benzylamino)-3-phenyl-propionic acid cyclopentyl ester | 263 mg, 79% | C1(CCCC1)OC([C@H](CC1=CC=CC=C1)NCC1=CC=C(C=C1)CN)=O | C22H28N2O2
